US07495007B2
Preparation of racemic (2′R,3R,4′S)-2′-[5-bromo-2-(2-hydroxycarbonyl-2-methyl-propoxy)-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′R,3R,4′S)-2′-[5-bromo-2-(2-methoxycarbonyl-2-methyl-propoxy)-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (106 mg, 0.16 mmol) in methanol (6 mL) was added a solution of NaOH (30 mg, 0.75 mmol) in water (3 mL). The mixture was heated at 60° C. for 5 h, evaporated to remove most of methanol, cooled to room temperature, and acidified to “pH” 2 with aqueous HCl solution. The precipitate was collected and dried to give title product as a white solid (70 mg). m/z (M+H)+: 631

reactant | racemic (2′R,3R,4′S)-2′-[5-bromo-2-(2-methoxycarbonyl-2-methyl-propoxy)-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.16 mmol, 106 mg | BrC=1C=CC(=C(C1)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=CC(=CC=C1)Cl)=O)OCC(C)(C)C(=O)OC | C30H27BrCl2N2O5
reactant | NaOH | 0.75 mmol, 30 mg | [OH-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | racemic (2′R,3R,4′S)-2′-[5-bromo-2-(2-hydroxycarbonyl-2-methyl-propoxy)-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 70 mg | BrC=1C=CC(=C(C1)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=CC(=CC=C1)Cl)=O)OCC(C)(C)C(=O)O | C29H25BrCl2N2O5
